US05856529
Step 10: Ethyl 2,3,4,5-tetrahydrobenzoxepin-6-carboxylate
A solution of 4-[2-ethoxycarbonyl-6-hydroxyphenyl]butan-1-ol (5.14 g, 21.6 mmol) in THF (20 ml) was added dropwise to an ice bath cooled solution of triphenyl phosphine (7.37 g, 28.1 mmol) and diethyl azodicarboxylate (4.89 g, 28.1 mmol) in THF (60 ml). The reaction was stirred for 18 hr and then concentrated in vacuo. The residue was purified by chromatography on silica gel using methylene chloride as the eluent to give the product as an oil (2.85 g, 60%).

reactant | 4-[2-ethoxycarbonyl-6-hydroxyphenyl]butan-1-ol | 21.6 mmol, 5.14 g | C(C)OC(=O)C1=C(C(=CC=C1)O)CCCCO | C13H18O4
reactant | triphenyl phosphine | 28.1 mmol, 7.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 28.1 mmol, 4.89 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | Ethyl 2,3,4,5-tetrahydrobenzoxepin-6-carboxylate | 2.85 g, 60% | O1CCCCC=2C1=CC=CC2C(=O)OCC | C13H16O3
